US05571810
A mixture of phosphorus oxychloride (3.2 ml) and N,N-dimethylformamide (3.4 ml) in dichloroethane (25 ml) was stirred at ambient temperature for 1 hour and 2',4'-difluoro-2-[4-(methylthio)phenyl]acetophenone (6.2 g) was added thereto. The mixture was refluxed for 8 hours, washed with water twice, dried and evaporated to give 3-chloro-3-(2,4-difluorophenyl)-2-[4(methylthio)phenyl]propenal as a solid.

reactant | phosphorus oxychloride | 3.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 3.4 ml | CN(C=O)C | C3H7NO
reactant | 2',4'-difluoro-2-[4-(methylthio)phenyl]acetophenone | 6.2 g | FC1=C(C=CC(=C1)F)C(CC1=CC=C(C=C1)SC)=O | C15H12F2OS
solvent | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
product | 3-chloro-3-(2,4-difluorophenyl)-2-[4(methylthio)phenyl]propenal | ClC(=C(C=O)C1=CC=C(C=C1)SC)C1=C(C=C(C=C1)F)F | C16H11ClF2OS
